US08420695B2
Step 3. 5-Bromo-2-nitrothiophene-3-carbaldehyde oxime
5-Bromo-2-nitrothiophene-3-carbaldehyde (22.5 g, 95 mmol), hydroxylamine hydrochloride (6.96 g, 100 mmol) and sodium acetate (8.21 g, 100 mmol) were stirred in ethanol (225 mL) at room temperature overnight. The solvent was removed in vacuo, saturated NaHCO3 was added and the mixture extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as an orange solid.

reactant | 5-Bromo-2-nitrothiophene-3-carbaldehyde | 95 mmol, 22.5 g | BrC1=CC(=C(S1)[N+](=O)[O-])C=O | C5H2BrNO3S
reactant | hydroxylamine hydrochloride | 100 mmol, 6.96 g | Cl.NO
reactant | sodium acetate | 100 mmol, 8.21 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 225 mL | C(C)O | C2H6O
product | 5-Bromo-2-nitrothiophene-3-carbaldehyde oxime | BrC1=CC(=C(S1)[N+](=O)[O-])C=NO | C5H3BrN2O3S
